US07923573B2
Paraformaldehyde (3.86 g, 133 mmol), magnesium chloride (6.32 g, 66.5 mmol) and triethylamine (11.6 ml, 83.3 mmol) were added to a solution of 2-fluoro-5-methylphenol (4.19 g, 33.3 mmol) in acetonitrile (100 ml), and the mixture was vigorously stirred at 90° C. for 10 days. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. After the organic layer was successively washed with 1N hydrochloric acid, water and a saturated aqueous NaCl solution, and dried with anhydrous sodium sulfate, it was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (eluting solvent: hexane/ethyl acetate=4/1) to obtain crude 3-fluoro-2-hydroxy-6-methylbenzaldehyde. According to a method similar to Example (28-3) and Example (28-4), from the crude compound obtained in the above, tert-butyl 2-[(tert-butoxycarbonyl)oxy]-3-fluoro-6-methylbenzoate was obtained (624 mg, three-step total yield: 6%).

reactant | Paraformaldehyde | 133 mmol, 3.86 g | C=O | CH2O
reactant | magnesium chloride | 66.5 mmol, 6.32 g | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 83.3 mmol, 11.6 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-methylphenol | 33.3 mmol, 4.19 g | FC1=C(C=C(C=C1)C)O | C7H7FO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-fluoro-2-hydroxy-6-methylbenzaldehyde | FC=1C(=C(C=O)C(=CC1)C)O | C8H7FO2
